US04758578
3-(2-Methylphenyl)-1,2,4-thiadiazole-5-sulfenamide
A solution of 56 g of 5-mercapto-3-(2-methylphenyl)-1,2,4-thiadiazole in 870 ml of 5% sodium hydroxide and 130 ml of water and a solution of 280 ml of 10% NaOCl diluted to 1000 ml with water were added dropwise to 2260 ml of an ammonium hydroxide solution while the mixture was stirred and maintained at 0° with an ice/methanol bath. The resulting mixture was stirred for 10 more minutes and the solids were collected, washed with water and dried under high vacuum (P2O5) to give 43 g of solid, m.p. 110°-112° C.

reactant | 5-mercapto-3-(2-methylphenyl)-1,2,4-thiadiazole | 56 g | SC1=NC(=NS1)C1=C(C=CC=C1)C | C9H8N2S2
reactant | NaOCl | 280 ml | [O-]Cl.[Na+]
reactant | ammonium hydroxide | 2260 ml | [OH-].[NH4+]
solvent | sodium hydroxide | 870 ml | [OH-].[Na+]
solvent | water | 130 ml | O | H2O
product | 3-(2-Methylphenyl)-1,2,4-thiadiazole-5-sulfenamide | 43 g | CC1=C(C=CC=C1)C1=NSC(=N1)SN | C9H9N3S2
